US07495103B2
A mixture of methyl-({methyl-[2-(6-nitro-indol-1-yl)-2-oxo-ethyl]-carbamoyl}-methyl)-carbamic acid tert-butyl ester (12.4 g, 30.6 mmol), SnCl2.2H2O (34.5 g, 153.2 mmol) and DIEA (74.8 mL, 429 mmol) in ethanol (112 mL) was heated to 70° C. for 3 h. Water and EtOAc were added and the mixture was filtered through a short plug of Celite. The organic layer was separated, dried over Na2SO4 and concentrated to yield ({[2-(6-Amino-indol-1-yl)-2-oxo-ethyl]-methyl-carbamoyl}-methyl)-methyl-carbamic acid tert-butyl ester (B-26) (11.4 g, quant.). HPLC ret. time 2.11 min, 10-99% CH3CN, 5 min run; ESI-MS 375.3 m/z (MH+).

reactant | methyl-({methyl-[2-(6-nitro-indol-1-yl)-2-oxo-ethyl]-carbamoyl}-methyl)-carbamic acid tert-butyl ester | 30.6 mmol, 12.4 g | C(C)(C)(C)OC(N(CC(N(CC(=O)N1C=CC2=CC=C(C=C12)[N+](=O)[O-])C)=O)C)=O | C19H24N4O6
reactant | SnCl2.2H2O | 153.2 mmol, 34.5 g | O.O.Cl[Sn]Cl
reactant | DIEA | 429 mmol, 74.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | ethanol | 112 mL | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ({[2-(6-Amino-indol-1-yl)-2-oxo-ethyl]-methyl-carbamoyl}-methyl)-methyl-carbamic acid tert-butyl ester | 11.4 g | C(C)(C)(C)OC(N(C)CC(N(C)CC(=O)N1C=CC2=CC=C(C=C12)N)=O)=O | C19H26N4O4
